US06737382B1
2-Amino-5-iodo-4-trifluoromethylthiazole (1.2 g) was dissolved in pyridine (2 ml) and thiophene-2-carbonyl chloride (0.80 g) was added at room temperature with stirring. The mixture was stirred for 6 hr at room temperature. The mixture was poured into ice water and acidified with aqueous hydrochloric acid then extracted with chloroform The chloroform layer was dried over magnesium sulfate and the solvent was removed under reduced pressure. The solid thus obtained was recrystallized from methanol to give N-(5-iodo-4-trifluoromethylthiazol-2-yl)thiophene-2-carboxamide (1.2 g), m. p. 184-185° C.

reactant | 2-Amino-5-iodo-4-trifluoromethylthiazole | 1.2 g | NC=1SC(=C(N1)C(F)(F)F)I | C4H2F3IN2S
reactant | thiophene-2-carbonyl chloride | 0.80 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-iodo-4-trifluoromethylthiazol-2-yl)thiophene-2-carboxamide | 1.2 g | IC1=C(N=C(S1)NC(=O)C=1SC=CC1)C(F)(F)F | C9H4F3IN2OS2
